US07737177B2
Preparation of Mupirocin Calcium Dihydrate
Pseudomonic acid (2.50 g, 10 mmole) was dissolved in a mixture of methanol and water (30 ml and 30 ml). Calcium 2-ethyl-hexanoate (0.92 g, 5.00 mmole) was dissolved in a mixture of methanol and water (60 ml and 30 ml). The calcium 2-ethyl-hexanoate solution was added to the pseudomonic acid solution, and stirred for 1 h. The methanol was evaporated from the solution at reduced pressure to give a final volume of 60 ml. The 2-ethyl hexanoic acid was extracted with ethyl-acetate (2×40 ml), and the aqueous layer was evaporated from the solution at reduced pressure to give a final volume of 50 ml. The mupirocin calcium solution was allowed to crystallize for 36 h at room temperature. The crystalline product was filtered and washed with water (10 cm3). The product was dried at 40° C. for 8 h.

reactant | Pseudomonic acid | 10 mmole, 2.50 g | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | Calcium 2-ethyl-hexanoate | 5.00 mmole, 0.92 g | C(C)C(C(=O)[O-])CCCC.[Ca+2].C(C)C(C(=O)[O-])CCCC
reactant | mupirocin calcium | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.[Ca+2]
solvent | methanol | CO | CH4O
solvent | water | 30 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | Mupirocin Calcium Dihydrate | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.O.O.[Ca+2] | InChI=1S/2C26H44O9.Ca.2H2O/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;;;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);;2*1H2/q;;+2;;/p-2/b2*16-13+;;;/t2*17-,18-,19-,20-,21-,24+,25-,26-;;;/m00.../s1
